US09382188B2
D) ethyl 3-cyclopropyl-3-(3-(((2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-yl)thio)methyl)phenyl)propanoate
To a solution of 2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-thiol (161 mg) in DMF (2.6 mL) were added ethyl 3-cyclopropyl-3-(3-(((methylsulfonyl)oxy)methyl)phenyl)propanoate (207 mg) and potassium carbonate (146 mg) at room temperature, and the mixture was stirred at 60° C. for 2 hr. The reaction mixture was poured into water at room temperature, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (NH, ethyl acetate/hexane) to give the title compound (267 mg) as a colorless oil.

reactant | 2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-thiol | 161 mg | FC1=C(C=C(C=C1)OC)C1=C(C=C(C=C1)S)CC(C)(C)C | C18H21FOS
reactant | ethyl 3-cyclopropyl-3-(3-(((methylsulfonyl)oxy)methyl)phenyl)propanoate | 207 mg | C1(CC1)C(CC(=O)OCC)C1=CC(=CC=C1)COS(=O)(=O)C | C16H22O5S
reactant | potassium carbonate | 146 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 2.6 mL | CN(C)C=O | C3H7NO
product | ethyl 3-cyclopropyl-3-(3-(((2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-yl)thio)methyl)phenyl)propanoate | 267 mg | C1(CC1)C(CC(=O)OCC)C1=CC(=CC=C1)CSC1=CC(=C(C=C1)C1=C(C=CC(=C1)OC)F)CC(C)(C)C | C33H39FO3S
